Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
house dust / cigarette smoke
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
Paracentesis ___
attach
 
Pertinent Results:
ADMISSION LABS
===============
___ 12:09PM BLOOD WBC-6.5 RBC-4.29 Hgb-12.0 Hct-39.0 MCV-91 
MCH-28.0 MCHC-30.8* RDW-14.9 RDWSD-49.2* Plt ___
___ 12:09PM BLOOD Neuts-59.1 ___ Monos-8.7 Eos-5.3 
Baso-0.9 Im ___ AbsNeut-3.83 AbsLymp-1.65 AbsMono-0.56 
AbsEos-0.34 AbsBaso-0.06
___ 01:51PM BLOOD ___ PTT-30.7 ___
___ 11:45AM BLOOD Glucose-86 UreaN-9 Creat-0.6 Na-134* 
K-7.0* Cl-98 HCO3-21* AnGap-15
___ 11:45AM BLOOD ALT-13 AST-58* AlkPhos-71 TotBili-0.3
___ 11:45AM BLOOD Albumin-3.8 Calcium-9.3 Phos-5.1* Mg-2.3

OTHER PERTINENT LABS
=====================
___ 11:45AM BLOOD cTropnT-<0.01
___ 11:45AM BLOOD CEA-0.4 CA125-264* CA ___ 12:00PM URINE Hours-RANDOM Creat-55 TotProt-13 
Prot/Cr-0.2
___ 06:46AM BLOOD proBNP-88
___ 10:11AM BLOOD QUANTIFERON-TB GOLD-PND

DISCHARGE LABS
===============
___ 06:46AM BLOOD WBC-5.5 RBC-3.90 Hgb-10.9* Hct-35.7 
MCV-92 MCH-27.9 MCHC-30.5* RDW-14.6 RDWSD-48.9* Plt ___
___ 06:46AM BLOOD ___ PTT-30.9 ___
___ 06:46AM BLOOD Glucose-89 UreaN-8 Creat-0.7 Na-142 K-4.2 
Cl-101 HCO3-25 AnGap-16
___ 06:46AM BLOOD ALT-10 AST-20 LD(LDH)-153 AlkPhos-71 
TotBili-0.4
___ 06:46AM BLOOD TotProt-7.9 Albumin-3.5 Globuln-4.4* 
Calcium-9.1 Phos-4.5 Mg-2.0

OTHER LABS/MICROBIOLOGY/CYTOLOGY
================================
___ 12:00PM URINE Color-Straw Appear-CLEAR Sp ___
___ 12:00PM URINE Blood-SM* Nitrite-NEG Protein-10* 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NORMAL pH-6.5 
Leuks-NEG
___ 12:00PM URINE RBC-8* WBC-0 Bacteri-NONE Yeast-NONE 
Epi-<1
___ 12:00 pm URINE
                            **FINAL REPORT ___
   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 10:20AM ASCITES TNC-1350* RBC-4050* Polys-0 Lymphs-24* 
Monos-73* Other-3*
___ 10:20AM ASCITES TotPro-8.3 Glucose-69 Creat-0.7 
LD(LDH)-269 ___ Misc-BODY FLUID

___ 10:20 am PERITONEAL FLUID      PERITONAL FLUID. 
   GRAM STAIN (Final ___: 
      1+    (<1 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      NO MICROORGANISMS SEEN. 
      This is a concentrated smear made by cytospin method, 
please refer to
      hematology for a quantitative white blood cell count, if 
applicable. 
   FLUID CULTURE (Preliminary):    NO GROWTH. 
   ANAEROBIC CULTURE (Preliminary): 
   FUNGAL CULTURE (Preliminary): 
   ACID FAST SMEAR (Preliminary): 
   ACID FAST CULTURE (Preliminary): 

Comment: NUCLEIC ACID (NAAT)    ___ 10:20
MISCELLANEOUS TESTING    Results Pending

Comment: Source: peritoneal    ___ ___
MYCOBACTERIUM TUBERCULOSIS COMPLEX, PCR, NON-RESPIRATORY    
Results Pending

Comment: Source: peritoneal    ___ 10:18
ADENOSINE DEAMINASE, PERITONEAL FLUID    Results Pending

============
OSH IMAGING
============
CT ABDOMEN PELVIS W CON (___) - ___
IMPRESSION:
1. Severe ascites.
2. Thickening of the greater omentum in the left upper quadrant 
and peritoneal nodularity most suspicious for neoplastic 
disease.
3. Thickening of the wall of the distal esophagus which may be 
due to esophagitis.
4. Chronic changes in the left lung as described.  Clinical 
correlation is recommended.

==================
PERTINENT IMAGING
==================
PELVIS U.S., TRANSVAGINAL (___)
FINDINGS: 
- The uterus is anteverted and measures 6.9 x 2.8 x 4.8 cm.  The 
endometrium is homogenous and measures 3 mm.
- The ovaries are not visualized.  There is large volume complex 
pelvic free fluid.
IMPRESSION: 
- Normal appearing uterus.  Ovaries not visualized.  Large 
volume complex pelvic free fluid.

Paracentesis Diagnostic/Therapeutic (___)
IMPRESSION:
1. Technically successful ultrasound guided diagnostic and 
therapeutic paracentesis.
2. 80 cc of fluid were removed and sent for multiple requested 
analyses.  An additional 2.5 L of fluid were removed.

Cytology ReportPERITONEAL FLUIDProcedure Date of ___
- Report not finalized.

CXR (___)
IMPRESSION: 
Comparison to ___xamination from ___.  The volume of the left hemithorax has further decreased.  
Again noted are extensive areas of bronchiectasis in the left 
lower lobe.  There is left lateral pleural thickening and stable 
mild enlargement of the left mediastinum.  The mediastinal 
structures and the heart are shifted to the left.  On the right, 
there is no evidence of pneumonia, pulmonary edema or pleural 
effusion.

 
Brief Hospital Course:
SUMMARY
====================
Ms. ___ is a ___ woman with no significant medical 
history presenting with 2 months of postprandial epigastric pain 
and worsening abdominal distention found to have new onset 
ascites s/p ___ paracentesis. Ascetic fluid was sent for 
cytology and other studies, most of which were still pending at 
time of discharge.

TRANSITIONAL ISSUES:
====================
[] Please ensure that patient receives the appropriate 
subspecialty follow up based on studies pending at time of 
discharge.
[] Patient instructed to call the ___ at ___ to see if 
there is a PCP that speaks ___, or if there are ___ 
interpreters that can come with you to clinic visits: 
___
[] Several studies were pending at time of discharge, including 
peritoneal gram stain and cultures, acid fast, fungal cultures, 
NAAT, ___, cytology, as well as quantiferon gold. These will 
need to be followed up on as they will dictate next steps.

ACTIVE ISSUES:
==============
# Post-prandial epigastric pain
# Ascites
History of 2 months of post-prandial epigastric pain and 1 month 
of progressive abdominal distention. CT A/P with large volume 
ascites, no evidence of PVT. Pt does not have significant 
alcohol use, LFTs wnl, and no evidence of CHF. CA-125 found to 
be elevated to 264, in conjunction with decreased appetite and 
unintentional weight loss, is concerning for malignancy. Has 
history of positive PPD, so tuberculous peritonitis is on the 
differential. ___ paracentesis ___ with 2.5L fluid removed. 
Preliminary results showed SAAG 0, WBC 1350 with PMN 0. 
Remainder of studies, including cytology, still pending at time 
of discharge. Plan to follow-up with appropriate subspecialist 
as outpatient as studies dictate.

# Bronchiectasis
Pt endorsed a history of crackling sounds with breathing. On 
exam, found to have significant crackles in the left base to 
mid-lung field. CXR with extensive area of bronchiectasis in LLL 
and left lateral pleural thickening and stable mild enlargement 
of left mediastinum. Discussed with radiology and felt to be 
stable since ___hest imaging at ___.

#Coagulopathy
INR 1.2 on admission, up to 1.3 on following day. PTT wnl. 
Likely represents vitamin deficiency in setting of poor 
appetite. Less likely represents liver disease, as LFTs wnl and 
no thrombocytopenia.

CHRONIC ISSUES:
===============
# Hypothyroidism
- Continue home levothyroxine

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 88 mcg PO DAILY 
2. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
you can also find this over the counter at a local pharmacy.  
2.  Levothyroxine Sodium 88 mcg PO DAILY  
3.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: Ascites of unknown etiology, concerning for 
malignancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,  

It was a privilege caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You were having pain in your abdomen and an enlarged abdomen.

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You were found to have fluid in your abdomen
- You had a procedure called a 'paracentesis' to remove the 
fluid from your abdomen
- The fluid was sent for several studies, of which the results 
are still pending

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
-Please continue to take all of your medications and follow-up 
with your appointments as listed below.  

We wish you the best! 
 
Sincerely,  

Your ___ Team
 
Followup Instructions:
___